US07067540B2
Step 2: Preparation of 1-(3-fluorobenzyl)-4-[(4-fluorobenzyl)oxy]-3-iodopyridin-2(1H)-one
To a mixture of 1-(3-fluorobenzyl)-4-hydroxy-3-iodopyridin-2(1H)-one (0.5 g, 1.44 mmol) in DMF (5 mL) was added K2CO3 (0.199 g, 1.44 mmol) followed by the addition of 4-fluorobenzyl bromide (0.189 mL, 1.51 mmol). The reaction mixture stirred at room temperature for 30 minutes. The mixture was diluted with ethyl acetate (50 mL) and washed with water. The organic extracts were dried over anhydrous Na2SO4 and concentrated to dryness. 1H-NMR (CD3OD, 400 MHz) δ 7.75 (d, 1H, J=7.6 Hz), 7.49 (q, 2H), 7.34 (q, 1H), 7.11 (m, 5H), 6.40 (d, 1H, J=7.6 Hz), 5.26 (s, 2H), 5.19 (s, -2H); ES-HRMS m/z 454.0098 (M+H calculated for C19H15NO2F2I requires 454.0110).

reactant | 1-(3-fluorobenzyl)-4-hydroxy-3-iodopyridin-2(1H)-one | 1.44 mmol, 0.5 g | FC=1C=C(CN2C(C(=C(C=C2)O)I)=O)C=CC1 | C12H9FINO2
reactant | K2CO3 | 1.44 mmol, 0.199 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-fluorobenzyl bromide | 1.51 mmol, 0.189 mL | FC1=CC=C(CBr)C=C1 | C7H6BrF
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 1-(3-fluorobenzyl)-4-[(4-fluorobenzyl)oxy]-3-iodopyridin-2(1H)-one | FC=1C=C(CN2C(C(=C(C=C2)OCC2=CC=C(C=C2)F)I)=O)C=CC1 | C19H14F2INO2
